US04070366
Preparation of 2,4Dimethyl-3-acetyl-5-isopropyl pyrrole
Aqueous hydriodic acid (10 ml) and 2 ml of 50% hypophosphorous acid were cooled and stirred while 10 ml of acetic anhydride was slowly added. 2,4-Dimethyl-3-acetyl-pyrrole (548 mg) was dissolved in the solution, 0.6 ml of acetone added, and the mixture was stirred for 1/2 hr. by which time a yellow precipitate had formed and redissolved and the solution had turned yellow; the final temperature was 37° C. It was poured into 100 ml of water and 30 ml of ammonium hydroxide kept at 20° C. The nearly colourless product separated as plates (662 mg, 92%). At 138° C. these changed to cubes which either melted at 165° C. or turned to irregular needles, m.p. 171°-173° C. For analysis, it was recrystallized from aqueous ethanol as colourless plates, m.p. 165.5° C. or 171.5°-173° C.

reactant | hydriodic acid | 10 ml | I | HI
reactant | hypophosphorous acid | 2 ml | [PH2](=O)O | H3O2P
reactant | acetic anhydride | 10 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | 2,4-Dimethyl-3-acetyl-pyrrole | 548 mg | CC=1NC=C(C1C(C)=O)C | C8H11NO
reactant | ammonium hydroxide | 30 ml | [OH-].[NH4+]
reactant | acetone | 0.6 ml | CC(=O)C | C3H6O
solvent | water | 100 ml | O | H2O
product | 2,4Dimethyl-3-acetyl-5-isopropyl pyrrole | CC=1NC(=C(C1C(C)=O)C)C(C)C | C11H17NO
